US09376454B2
Step 1. Synthesis of Di-prop-2-ynyl-carbamic acid tert-butyl ester
A mixture of N-Boc-propargylamine (2.63 g, 16.9 mmol) and DMF (35 mL) was prepared under argon and cooled to 0° C. for 20 min. Sodium hydride (60%, 0.714 g, 17.9 mmol) was added and the reaction stirred at 0° C. for 30 min. Propargyl bromide (80% in toluene, 2.7 mL, 24.2 mmol) in DMF (5 mL) was added slowly and the reaction stirred at 0° C. for 15 min then warmed to room temperature and stirred for additional 17 hr. The reaction mixture was quenched with water and extracted two times with EtOAc. The combined organic layers were washed with water (3×) and brine, dried over Na2SO4, filtered, and concentrated. The crude product was carried to the next reaction without purification. ESI-MS m/z 194 (MH)+.

reactant | N-Boc-propargylamine | 16.9 mmol, 2.63 g | C(=O)(OC(C)(C)C)NCC#C | C8H13NO2
reactant | Sodium hydride | 17.9 mmol, 0.714 g | [H-].[Na+]
reactant | Propargyl bromide | 24.2 mmol, 2.7 mL | C(C#C)Br | C3H3Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | Di-prop-2-ynyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC#C)CC#C)=O | C11H15NO2
